US06919331B2
A mixture of 3-nitro-4-chloro-benzonitrile (20.4 g, 112.2 mmol), and 4-aminobutanol (10 g, 112 mmol) and K2CO3 (30.9 g, 224 mmol) in CH3CN (100 ml) was stirred at 23° C. for 12 h. Starting material remains by TLC analysis. Additional 4-aminobutanol (2 g, 22 mmol) was added and stirring continued for 24 h. The mixture is filtered and concentrated. The residue is dissolved in EtOAc and washed with water. The extracts are dried over MgSO4 and concentrated to give 26 g (99%) of 4-(4-cyano-2-nitro-phenylamino)-butan-1-ol as an orange solid.

reactant | 3-nitro-4-chloro-benzonitrile | 112.2 mmol, 20.4 g | [N+](=O)([O-])C=1C=C(C#N)C=CC1Cl | C7H3ClN2O2
reactant | 4-aminobutanol | 112 mmol, 10 g | NCCCCO | C4H11NO
reactant | K2CO3 | 224 mmol, 30.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-aminobutanol | 22 mmol, 2 g | NCCCCO | C4H11NO
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 4-(4-cyano-2-nitro-phenylamino)-butan-1-ol | 26 g, 99% | C(#N)C1=CC(=C(C=C1)NCCCCO)[N+](=O)[O-] | C11H13N3O3
